US05250690
2-(4-((6-Fluoro-2-quinoxalinyl)oxy)phenoxy)-N-(4-(trifluoromethoxy)phenyl)propanamide
A solution of 6.1 mmol of 2-(4-((6-fluoro-2-quinoxalinyl)oxy)phenoxy)propionyl chloride in 15 ml of methylene chloride was added dropwise to an ice-cooled solution of 1.43 g (6.7 mmol) of 4-(trifluoromethoxy)aniline hydrochloride and 1.54 g (15 mmol) of triethylamine in 40 ml of methylene chloride. The reaction mixture was stirred at room temperature for 3 hours and then poured into a dilute aqueous HCl solution. The organic layer was separated, washed with a saturated NaHCO3 solution, dried over MgSO4 and evaporated to dryness. The residual solid was taken up in boiling methanol, treated with charcoal and filtered through celite. The filtrate was allowed to cool to give 1.14 g (38 percent of theoretical) of the above-named product as colorless crystals which melted at 140.5°-142° C. The structure of the compound was confirmed by its IR and NMR spectrum. (Compound 8)

reactant | 2-(4-((6-fluoro-2-quinoxalinyl)oxy)phenoxy)propionyl chloride | 6.1 mmol | FC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)Cl)C)C=C1 | C17H12ClFN2O3
reactant | 4-(trifluoromethoxy)aniline hydrochloride | 6.7 mmol, 1.43 g | Cl.FC(OC1=CC=C(N)C=C1)(F)F
reactant | triethylamine | 15 mmol, 1.54 g | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-((6-Fluoro-2-quinoxalinyl)oxy)phenoxy)-N-(4-(trifluoromethoxy)phenyl)propanamide | FC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C)C=C1 | C24H17F4N3O4
